US07585880B2
3-{4-[(4-{[[3-(diethylamino)propyl](4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoic acid
A mixture of N-[3-(diethylamino)propyl]thiourea (90 mg), 2-bromo-1-phenylethanone (100 mg) and N,N-dimethylformamide (3 mL) was stirred at room temperature for 1 hr. Sodium hydride (60% in oil, 40 mg) was added to the mixture under ice-cooling. The mixture was allowed to warm to room temperature and stirred for 1 hr. Methyl 3-(4-{[4-(chloromethyl)benzyl]-oxy}phenyl)propanoate (159 mg) was added to the reaction mixture under ice-cooling, allowed to warm to room temperature and stirred for 1 hr. The reaction mixture was poured into aqueous potassium dihydrogenphosphate solution and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated and the residue was purified by basic silica gel column chromatography to give a yellow oil. A mixture of the yellow oil, 2N aqueous sodium hydroxide solution (2 mL) and ethanol (5 mL) was stirred at room temperature for 1 hr. The reaction mixture was poured into aqueous potassium dihydrogenphosphate solution, and extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.) and concentrated to give the title compound (142 mg, yield 51%) as a yellow oil.

reactant | N-[3-(diethylamino)propyl]thiourea | 90 mg | C(C)N(CCCNC(=S)N)CC | C8H19N3S
reactant | 2-bromo-1-phenylethanone | 100 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | Sodium hydride | 40 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]-oxy}phenyl)propanoate | 159 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | potassium dihydrogenphosphate | P(=O)(O)(O)[O-].[K+]
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-{4-[(4-{[[3-(diethylamino)propyl](4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoic acid | 142 mg, yield 51% | C(C)N(CCCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1)CC | C33H39N3O3S
